US05036156
α-bromo(2-chloro)phenylacetic acid
A solution of 141 g of (2-chloro)benzaldehye and 270 g of tribromomethane in 500 ml of ethyl ether is added to a solution of 270 g of potassium hydroxide and 34 g of tetrabutylphosphonium bromide in 800 ml of water. The mixture is stirred for 24 hours at 0° C.

reactant | (2-chloro)benzaldehye | 141 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | tribromomethane | 270 g | BrC(Br)Br | CHBr3
reactant | potassium hydroxide | 270 g | [OH-].[K+]
reactant | ethyl ether | 500 ml | C(C)OCC | C4H10O
catalyst | tetrabutylphosphonium bromide | 34 g | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
solvent | water | 800 ml | O | H2O
product | α-bromo(2-chloro)phenylacetic acid | BrC(C(=O)O)C1=C(C=CC=C1)Cl | C8H6BrClO2
